US05245056
177.3 g of the δ-lactone from c) were suspended in 1250 ml of toluene while stirring. After the addition of 138.6 g of benzoic anhydride the mixture was stirred for 10 minutes. Then, 2.5 ml of perchloric acid were added. The mixture was stirred for a further 2.5 hours. The reaction solution was extracted in toluene with 1N sodium hydroxide solution and then with water. The combined toluene phases were dried, the drying agent was filtered off under suction and washed with toluene. Evaporation of the solvent gave 237.2 g (103.4%) of rac-(2RS,3RS,5SR)-3-benzoyloxy-2-hexyl-5-undecyl-δ-valerolactone, which was used in the next step without purification.

reactant | benzoic anhydride | 138.6 g | C(C1=CC=CC=C1)(=O)OC(C1=CC=CC=C1)=O | C14H10O3
reactant | perchloric acid | 2.5 ml | Cl(=O)(=O)(=O)O | ClHO4
reactant | toluene | 1250 ml | C1(=CC=CC=C1)C | C7H8
product | rac-(2RS,3RS,5SR)-3-benzoyloxy-2-hexyl-5-undecyl-δ-valerolactone | 237.2 g, 103.4% | C(C1=CC=CC=C1)(=O)OC1C(C(=O)OC(C1)CCCCCCCCCCC)CCCCCC | C29H46O4
